* NGSPICE file created from aimc_converter_macro_active_candidate.ext - technology: sky130A

.subckt escaped_input_latch out_p out_n latch_sense_p latch_sense_n tail reset vdd
+ vss eval sense_p sense_n iso_tail vdd_active
X0 out_p out_n vdd_active vdd_active sky130_fd_pr__pfet_01v8 ad=6.72 pd=10.4 as=6.24 ps=10 w=2.4 l=0.6
X1 vdd reset out_n vdd sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X2 tail out_p out_n vss sky130_fd_pr__nfet_01v8 ad=12.48 pd=14.8 as=13.44 ps=15.2 w=4.8 l=0.6
X3 out_p reset vdd vdd sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X4 out_p out_n tail vss sky130_fd_pr__nfet_01v8 ad=13.44 pd=15.2 as=12.48 ps=14.8 w=4.8 l=0.6
X5 tail latch_sense_n out_n vss sky130_fd_pr__nfet_01v8 ad=12.48 pd=14.8 as=13.44 ps=15.2 w=4.8 l=0.6
X6 tail eval vss vss sky130_fd_pr__nfet_01v8 ad=16.2 pd=17.4 as=16.2 ps=17.4 w=6 l=0.6
X7 out_p latch_sense_p tail vss sky130_fd_pr__nfet_01v8 ad=13.44 pd=15.2 as=12.48 ps=14.8 w=4.8 l=0.6
X8 iso_tail sense_n latch_sense_n vss sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X9 vdd_active out_p out_n vdd_active sky130_fd_pr__pfet_01v8 ad=6.24 pd=10 as=6.72 ps=10.4 w=2.4 l=0.6
X10 latch_sense_p sense_p iso_tail vss sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 eval tail 0.09547f
C1 tail vdd_active 0.94872f
C2 out_n vdd_active 2.87636f
C3 iso_tail sense_p 0.10725f
C4 latch_sense_p out_p 0.15901f
C5 sense_n iso_tail 0.10725f
C6 tail latch_sense_n 0.0334f
C7 tail latch_sense_p 0.0334f
C8 latch_sense_n out_n 0.15901f
C9 vdd out_p 0.76206f
C10 tail out_p 0.18071f
C11 out_n out_p 2.60132f
C12 latch_sense_p sense_p 0.02861f
C13 tail vdd 0.94872f
C14 reset out_p 0.31048f
C15 vdd out_n 0.76206f
C16 latch_sense_n iso_tail 0.07366f
C17 tail out_n 0.18071f
C18 latch_sense_p iso_tail 0.07366f
C19 latch_sense_n sense_n 0.02861f
C20 out_p vdd_active 2.82313f
C21 vdd reset 4.03064f
C22 reset out_n 0.31048f
C23 iso_tail vss 25.79857f
C24 latch_sense_n vss 1.99533f
C25 latch_sense_p vss 1.99533f
C26 out_n vss 9.45902f
C27 tail vss 72.30894f
C28 vdd_active vss 81.54407f
C29 vdd vss 72.40037f
.ends

.subckt aimc_converter_macro_active_candidate vss vdd row_drive sar_comparator_input
+ decision_p decision_n reset eval vdd_active
Xconverter_latch_0 decision_p decision_n converter_latch_0/latch_sense_p converter_latch_0/latch_sense_n
+ converter_latch_0/tail converter_latch_0/reset decision_n VSUBS converter_latch_0/eval
+ row_drive sar_comparator_input converter_latch_0/iso_tail decision_n escaped_input_latch
C0 row_drive row_dac_10b_0/vdd 1.11409f
C1 row_drive shared_converter_mux_0/vdd 0.00246f
C2 row_drive vdd 0.1964f
C3 decision_p converter_latch_0/latch_sense_p 0.02821f
C4 vss shared_converter_mux_0/vdd 0.2816f
C5 converter_latch_0/iso_tail sar_readout_12b_0/vss 0.60149f
C6 shared_converter_mux_0/vdd decision_n 0
C7 converter_latch_0/iso_tail sar_comparator_input 0.08712f
C8 row_drive row_dac_10b_0/vss 1.08123f
C9 row_drive sar_readout_12b_0/vss 0.21493f
C10 row_drive converter_latch_0/iso_tail 0.26293f
C11 sar_readout_12b_0/vss decision_n 0.93663f
C12 shared_converter_mux_0/vss shared_converter_mux_0/mux_bus 1.56188f
C13 converter_latch_0/iso_tail decision_n 0.31557f
C14 vss row_drive 0.22445f
C15 sar_readout_12b_0/vss sar_readout_12b_0/vdd 0.49712f
C16 converter_latch_0/tail decision_n 0.24028f
C17 row_drive decision_n 1.55835f
C18 converter_latch_0/iso_tail sar_readout_12b_0/vdd 0.27625f
C19 vss decision_n 0.19458f
C20 vss converter_latch_0/latch_sense_n 0.23329f
C21 row_drive sar_readout_12b_0/vdd 0.33461f
C22 converter_latch_0/latch_sense_n decision_n 0.02821f
C23 sar_readout_12b_0/vdd decision_n 1.39936f
C24 decision_p converter_latch_0/tail 0.22943f
C25 shared_converter_mux_0/vdd shared_converter_mux_0/mux_bus 1.55306f
C26 row_drive shared_converter_mux_0/vss 0.00246f
C27 row_drive shared_converter_mux_0/mux_bus 0.06281f
C28 shared_converter_mux_0/vss decision_n 0
C29 vss shared_converter_mux_0/mux_bus 0.03132f
C30 shared_converter_mux_0/mux_bus decision_n 0.00217f
C31 vss converter_latch_0/latch_sense_p 0.23329f
C32 row_dac_10b_0/vdd row_dac_10b_0/vss 0.78467f
C33 vss VSUBS 30.5941f
C34 vdd VSUBS 30.5941f
C35 sar_comparator_input VSUBS 0.93057f
C36 decision_p VSUBS 0.82539f
C37 row_drive VSUBS 6.8802f
C38 decision_n VSUBS 46.7563f
.ends

